US06620963B1
1,4-Dichloro-1,4-dimethylcyclohexane (Compound 1)
To a solution of 1,4-dimethylcyclohexane (10 g, 89.1 mmol) and tert-butyl chloride (32.6 g, 348 mmol) in 45 mL of anhydrous methylene chloride in a 3-neck round-bottom flask under argon at 0° C., was slowly added aluminum chloride (1.24 g, 8.91 mmol). The resulting mixture was stirred at 0° C. for 1.5 hours then quenched with ice, and the product was extracted with CH2Cl2. The organic layer was separated and washed with water, and brine, and dried over Na2SO4, and filtered, and concentrated under reduced pressure. The residue was purified by Kugelrohr distillation to yield the title compound as a pale yellow liquid.

reactant | 1,4-dimethylcyclohexane | 89.1 mmol, 10 g | CC1CCC(CC1)C | C8H16
reactant | tert-butyl chloride | 348 mmol, 32.6 g | C(C)(C)(C)Cl | C4H9Cl
reactant | aluminum chloride | 8.91 mmol, 1.24 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | 45 mL | C(Cl)Cl | CH2Cl2
product | 1,4-Dichloro-1,4-dimethylcyclohexane | ClC1(CCC(CC1)(C)Cl)C | C8H14Cl2
